US07812160B2
To acetic anhydride (0.48 mL, 5.13 mmol) at 0° C. under Ar atmosphere was added formic acid (0.24 mL, 6.31 mmol) dropwise followed by heating of the mixture at 60° C. for 2 hours. After cooling to room temperature, THF (1 mL) was added followed by a solution of methyl [2-(4-aminobenzyl)-4-chloro-6-(dimethylamino)pyrimidin-5-yl]acetate (0.660 g, 1.97 mmol) in THF (1 ml). This was then stirred for 3 hours and concentrated to dryness. The remaining residue was dissolved in THF and cooled to 0° C. followed by the dropwise addition of borane dimethyl sulfide complex until the vigorous effervescence ceased. The mixture was gently refluxed for 14 hours and then cooled to 0° C. Methanol was added and the mixture was stirred at room temperature for 1 hour followed by the addition of concentrated HCl to pH ˜5 and stirring was continued for another 30 minutes. The solvent was evaporated in vacuo, the remaining residue basified with water and 1N NaOH, and the aqueous layer was extracted with Et2O. The combined organic extracts was dried over anhydrous Na2SO4, filtered, and concentrated to dryness to give the crude product which was chromatographed onver silica gel eluting with 5% acetone in CH2Cl2 to give methyl {4-chloro-6-(dimethylamino)-2-[4-(methylamino)benzyl]pyrimidin-5-yl}acetate (0.260 g, 38% yield) as a pale yellow oil.

reactant | acetic anhydride | 5.13 mmol, 0.48 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 6.31 mmol, 0.24 mL | C(=O)O | CH2O2
reactant | methyl [2-(4-aminobenzyl)-4-chloro-6-(dimethylamino)pyrimidin-5-yl]acetate | 1.97 mmol, 0.660 g | NC1=CC=C(CC2=NC(=C(C(=N2)Cl)CC(=O)OC)N(C)C)C=C1 | C16H19ClN4O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | methyl {4-chloro-6-(dimethylamino)-2-[4-(methylamino)benzyl]pyrimidin-5-yl}acetate | 0.260 g, 38% yield | ClC1=NC(=NC(=C1CC(=O)OC)N(C)C)CC1=CC=C(C=C1)NC | C17H21ClN4O2
